US07498440B2
Preparation of 1-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0916 g, 0.312 mmol) and 2-(2-bromoethyl)-1H-isoindole-1,3(2H)-dione (0.130 g, 0.512 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted give the desired product (0.0881 g, 51.8%). EI-MS m/z 467(M+) Rt (1.91 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.312 mmol, 0.0916 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-(2-bromoethyl)-1H-isoindole-1,3(2H)-dione | 0.512 mmol, 0.130 g | BrCCN1C(C2=CC=CC=C2C1=O)=O | C10H8BrNO2
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0881 g, 51.8% | [Br-].O=C1N(C(C2=CC=CC=C12)=O)CC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C30H31N2O3.BrH/c33-27-25-13-7-8-14-26(25)28(34)31(27)18-22-32-19-15-29(16-20-32,17-21-32)30(35,23-9-3-1-4-10-23)24-11-5-2-6-12-24;/h1-14,35H,15-22H2;1H/q+1;/p-1
